US06444850B1
Step 1: Preparation of methyl o-methylbenzoylformate
5.1 g of magnesium (0.21 mol) was placed in 300 ml of dry ether and 34.18 g of o-bromotoluene (0.2 mol) was added dropwise thereto under a nitrogen atmosphere to prepare a Grignard reagent. The Grignard reagent solution was cooled to −78° C. and 23.6 g of dimethyl oxalate (0.2 mol) was added dropwise thereto. The resulting solution was stirred for 30 minutes, mixed with crushed ice, acidified with 20% hydrochloric acid and then extracted with ether. The organic layer was washed three times with water, dried over magnesium sulfate, and the solvent was removed under a reduced pressure to obtain a residue. The residue was subjected to column chromatography using a mixture of n-hexane and ethyl acetate (9:1) as an eluent to obtain 24.2 g (yield 68%) of the title compound as a colorless liquid.

reactant | magnesium | 0.21 mol, 5.1 g | [Mg] | Mg
reactant | o-bromotoluene | 0.2 mol, 34.18 g | BrC1=C(C=CC=C1)C | C7H7Br
reactant | dimethyl oxalate | 0.2 mol, 23.6 g | C(C(=O)OC)(=O)OC | C4H6O4
reactant | hydrochloric acid | Cl | ClH
solvent | ether | 300 ml | CCOCC | C4H10O
solvent | n-hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl o-methylbenzoylformate | 24.2 g, yield 68% | CC1=C(C(=O)C(=O)OC)C=CC=C1 | C10H10O3
